US08877742B2
3-(2-fluoro-5-(pyrrolidin-1-yl)phenyl)-1-methyl-4-(phenylsulfonamido)-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid
To a suspension of methyl 3-(2-fluoro-5-(pyrrolidin-1-yl)phenyl)-1-methyl-4-(phenylsulfonamido)-1H-pyrrolo[2,3-b]pyridine-2-carboxylate (47 mg, 0.092 mmol) in MeOH (1 mL) stirred under nitrogen at RT was added a aqueous solution of 6M sodium hydroxide (0.077 mL, 0.462 mmol) in one charge. The reaction mixture was stirred at 80° C. for 2 hours. The reaction mixture was cooled to RT and concentrated. The crude was purified on normal phase silica eluting with 2M ammonia in MeOH and DCM (0-50%) to give the title compound (35 mg). LCMS (A): m/z (M+H)+ 495, C25H23FN4O4S requires 494 (basic).

reactant | methyl 3-(2-fluoro-5-(pyrrolidin-1-yl)phenyl)-1-methyl-4-(phenylsulfonamido)-1H-pyrrolo[2,3-b]pyridine-2-carboxylate | 0.092 mmol, 47 mg | FC1=C(C=C(C=C1)N1CCCC1)C1=C(N(C2=NC=CC(=C21)NS(=O)(=O)C2=CC=CC=C2)C)C(=O)OC | C26H25FN4O4S
reactant | sodium hydroxide | 0.462 mmol, 6M, 0.077 mL | [OH-].[Na+]
solvent | MeOH | 1 mL | CO | CH4O
product | 3-(2-fluoro-5-(pyrrolidin-1-yl)phenyl)-1-methyl-4-(phenylsulfonamido)-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid | 35 mg | FC1=C(C=C(C=C1)N1CCCC1)C1=C(N(C2=NC=CC(=C21)NS(=O)(=O)C2=CC=CC=C2)C)C(=O)O | C25H23FN4O4S
